US07517995B2
2-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride (XV.13)
900 mg (3.53 mmol) tert-butyl[2-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate are placed in 10 ml dichloromethane, 20 ml 1 molar ethereal hydrochloric acid are added. The reaction mixture is stirred for 16 hours at ambient temperature. After the addition of a further 10 ml ethereal hydrochloric acid the mixture is stirred for another 72 hours at ambient temperature and 4 hours at 40° C. The suspension is evaporated down. The residue is dissolved in acetone, mixed with diethyl ether and suction filtered.

reactant | tert-butyl[2-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate | 3.53 mmol, 900 mg | C(C)(C)(C)OC(NCCC1=NC(=NO1)C(C)C)=O | C12H21N3O3
reactant | hydrochloric acid | 1 molar, 20 ml | Cl | ClH
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride | Cl.C(C)(C)C1=NOC(=N1)CCN | InChI=1S/C7H13N3O.ClH/c1-5(2)7-9-6(3-4-8)11-10-7;/h5H,3-4,8H2,1-2H3;1H
